US09126931B2
Tert-butyl 4-(4-ethyl-3-iodophenyl)-4-methyl-3-oxopentanoic acid
Mono-tert-butyl malonic acid (72.5 g) was dissolved in DME (360 ml), added with TEA (189 ml) and magnesium chloride (29.63 g) and the mixture was stirred for 2 hrs. In a separate vessel, CDI (52.75 g) was added to the DME (360 ml) solution of 2-(4-ethyl-3-iodophenyl)-2-methylpropanoic acid (90 g) and stirred at room temperature for 1 hr to prepare a solution. This solution was then added dropwise to the aforementioned mixture, and the resulting solution was washed with DME (90 ml) and stirred at 70° C. for 3 hrs. The reaction mixture was diluted with isopropyl acetate (225 ml) and heptane (225 ml), and the organic layer was washed with 2 N hydrochloric acid (684 ml), 0.17 N hydrochloric acid (540 ml), 15% aqueous solution of ammonium chloride (540 ml), 1 N aqueous solution of sodium hydroxide (540 ml) and 15% brine (540 ml) in order. The organic layer was concentrated under reduced pressure to obtain the title compound as a crude product, which was used for the next step without further purification.

reactant | Mono-tert-butyl malonic acid | 72.5 g | C(C)(C)(C)C(C(=O)O)C(=O)O | C7H12O4
reactant | magnesium chloride | 29.63 g | [Cl-].[Mg+2].[Cl-]
reactant | CDI | 52.75 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-(4-ethyl-3-iodophenyl)-2-methylpropanoic acid | 90 g | C(C)C1=C(C=C(C=C1)C(C(=O)O)(C)C)I | C12H15IO2
solvent | DME | 360 ml | COCCOC | C4H10O2
solvent | DME | 360 ml | COCCOC | C4H10O2
product | Tert-butyl 4-(4-ethyl-3-iodophenyl)-4-methyl-3-oxopentanoic acid | C(C)(C)(C)C(C(=O)O)C(C(C)(C)C1=CC(=C(C=C1)CC)I)=O | C18H25IO3
